US08106064B2
6-(3-[1,3]Dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1H-pyrimidine-2,4-dione (2.66 g, 8 mmol) and anhydrous powdered potassium carbonate (1.31 g, 16 mmol) were dissolved in DMF (40 ml). With vigorous stirring, 4-chloromethylpyridine hydrochloride (2.21 g, 16 mmol) and lithium iodide (1 g, 8 mmol) were added in this order. The mixture was stirred for overnight at room temperature and evaporated in vacuo. The residue was dissolved in methanol-dichloromethane (1:9), filtered through a celite pad, and the filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexane (9:1)) to afford 1.36 g (40%) of 6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1-pyridin-4-ylmethyl-1H-pyrimidine-2,4-dione as a white foam. 1H NMR (200 MHz, CDCl3) δ 1.13 (6H, d, J=7.0 Hz), 2.32 (3H, s), 2.74 (1H, m), 3.98-4.17 (4H, m), 4.87 (2H, s), 5.71 (1H, s), 6.63 (1H, s), 6.79 (1H, s), 7.05 (1H, s), 7.08 (1H, s), 7.11 (1H, s), 7.53 (2H, dd, J=1.6 Hz, J=4.4 Hz), 9.37 (1H, s).

reactant | 6-(3-[1,3]Dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1H-pyrimidine-2,4-dione | 8 mmol, 2.66 g | O1C(OCC1)C=1C=C(OC2=C(C(NC(N2)=O)=O)C(C)C)C=C(C1)C | C17H20N2O5
reactant | potassium carbonate | 16 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethylpyridine hydrochloride | 16 mmol, 2.21 g | Cl.ClCC1=CC=NC=C1
reactant | lithium iodide | 8 mmol, 1 g | [I-].[Li+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-5-isopropyl-1-pyridin-4-ylmethyl-1H-pyrimidine-2,4-dione | 1.36 g, 40% | O1C(OCC1)C=1C=C(OC2=C(C(NC(N2CC2=CC=NC=C2)=O)=O)C(C)C)C=C(C1)C | C23H25N3O5
